US06083943
(19) (2S*,3S*,4R*,5R*)-4-Hydroxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]5-methyl-2-phenylpyrrolidine
20% Pd(OH)2 --C (Pearlman's catalyst, Aldrich; 0.44 g) was added to a solution of (2S*,3S*,4R*,5R*)-1-benzyloxycarbonyl-4-hydroxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]-5-methyl-2-phenylpyrrolidine(0.70 g, 1.36 mmol) and HCO2NH4 (0.51 g, 8.16 mmol) in MeOH (20 ml). The reaction mixture was stirred and heated at a gentle reflux for 30 minutes. The catalysts were filtered off by the aid of a Celite pad, and washed with MeOH. The combined filtrate and washings were concentrated in vacuo. The residue was basified to pH 10 with 1M NaOH aq. solution, and extracted with AcOEt (×4). The combined AcOEt extracts were dried (K2CO3), and concentrated in vacuo to give a pale yellow viscous oil (0.46 g), which crystallized spontaneously on standing in a refrigerator for 2 days. This was recrystallized from AcOEt-n-hexane to give title compound (0.33 g, 63%) as white crystals. The yellow mother liquor was chromatographed over SiO2 (Merck Kieselgel 60, 2.0 g). Elution with CH2Cl2 --MeOH (50:1→20:1) gave an additional amount of title compound (0.06 g, 12%) as a pale yellow viscous oil, which crystallized spontaneously on standing at room temperature; the total yield of title compound amounted to 0.39 g (76%): mp 76.0-78.0 C. (white powders); IRmax (nujol): 3180(w), 1610(w), 1509(s), 1240(s), 1050(m), 800(m), 750(m), 696(m) cm-1 ; 1H-NMR δ: 7.47-7.22(m, 5H), 7.01(dd, J=8.4, 2.2 Hz, 1H), 6.68(d, J=8.4 Hz, 1H), 6.65(d, J=2.2 Hz, 1H), 4.50(d, J=7.7 Hz, 1H), 3.78(dd, J=10.3, 4.3 Hz, 1H), 3.66(dd, J=10.3, 9.4 Hz, 1H), 3.64(s, 3H), 3.61(d,J=12.3 Hz, 1H), 3.47(d,J=12.3 Hz, 1H), 3.39(dd, J=9.7, 7.7 Hz, 1H), 2.92(dq, J=9.4, 6.0 Hz, 1H), 2.76(sep, J=6.8 Hz, 1H), 2.13(br.s, 3H), 1.84(ddd, J=9.4, 9.4, 4.3 Hz, 1H), 1.27(d, J=6.0 Hz, 3H), 1.16(d, J=6.8 Hz, 6H) ppm.

reactant | (2S*,3S*,4R*,5R*)-1-benzyloxycarbonyl-4-hydroxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]-5-methyl-2-phenylpyrrolidine | 1.36 mmol, 0.70 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H]([C@H]([C@H]1C)CO)NCC1=C(C=CC(=C1)C(C)C)OC)C1=CC=CC=C1 | C31H38N2O4
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
solvent | MeOH | 20 ml | CO | CH4O
product | (2S*,3S*,4R*,5R*)-4-Hydroxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]5-methyl-2-phenylpyrrolidine | 0.46 g | OC[C@H]1[C@@H]([C@@H](N[C@@H]1C)C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(C)C)OC | C23H32N2O2
